US04733002
Preparation of 1-(3,4-dihydroxyphenyl)-1-hexene
In 10 ml of absolute methanol was dissolved 198 mg of 1-(3',4'-bistetrahydropyranyloxy-phenyl)-1-hexene obtained in Example 17-(1), and a catalytic amount of p-toluenesulfonic acid was added to the solution at 0° C. The mixture was stirred for 2 hours at the same temperature. After reaction, one drop of triethylamine was added to the reaction mixture and the mixture was concentrated to give crude product. By purification of the crude product by means of column chromatography [silica gel/ether:hexane (1:2)], 61 mg of pure product was obtained.

reactant | 1-(3',4'-bistetrahydropyranyloxy-phenyl)-1-hexene | 198 mg | O1C(CCCC1)OC=1C=C(C=CC1OC1OCCCC1)C=CCCCC | C22H32O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 ml | CO | CH4O
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
product | 1-(3,4-dihydroxyphenyl)-1-hexene | 61 mg | OC=1C=C(C=CC1O)C=CCCCC | C12H16O2
